US04007181
a. N,N'-di-2-Adamantylthiourea
The 2-adamantylamine obtained from 5.0 g. (0.0266 mole) of 2-adamantylamine hydrochloride is reacted with 2.5 g. (0.014 mole) of 1,1'-thiocarbonyldiimidazole in 100 ml. of tetrahydrofuran for 20 hr. The solvent is evaporated and the residue partitioned between 5 percent hydrochloric acid and ether. The organic layer is washed with water, dried over potassium carbonate, evaporated and the residue is recrystallized from benzene-Skellysolve B: 3.65 g. (79 percent), m.p. 254-258.

reactant | 2-adamantylamine | C12C(C3CC(CC(C1)C3)C2)N | C10H17N
reactant | 2-adamantylamine hydrochloride | 0.0266 mole | Cl.C12C(C3CC(CC(C1)C3)C2)N
reactant | 1,1'-thiocarbonyldiimidazole | 0.014 mole | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N,N'-di-2-Adamantylthiourea | C12C(C3CC(CC(C1)C3)C2)NC(=S)NC2C3CC1CC(CC2C1)C3 | C21H32N2S
